US04710502
6-Bromo-3-[3-(1H-imidazol-1-yl)-2-methylpropyl]-4(3H)-quinazolinone)
A mixture of 3.37 g of 2-amino-5-bromo-N-[3-(1H-imidazol-1-yl)-2-methylpropyl]benzamide, 5 ml of triethyl orthoformate and 10 ml of ethanol was heated at reflux temperature for 20 hours. The reaction mixture was concentrated, triturated with ether and then boiled with ethyl acetate. The insoluble product was filtered off, mp 159°-162° C.

reactant | 2-amino-5-bromo-N-[3-(1H-imidazol-1-yl)-2-methylpropyl]benzamide | 3.37 g | NC1=C(C(=O)NCC(CN2C=NC=C2)C)C=C(C=C1)Br | C14H17BrN4O
reactant | triethyl orthoformate | 5 ml | C(OCC)(OCC)OCC | C7H16O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-Bromo-3-[3-(1H-imidazol-1-yl)-2-methylpropyl]-4(3H)-quinazolinone | BrC=1C=C2C(N(C=NC2=CC1)CC(CN1C=NC=C1)C)=O | C15H15BrN4O
